US07700641B2
Synthesis of 1′-[(5-fluoro-1H-benzimidazol-2-yl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
A mixture of (2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)acetic acid (0.50 g, 1.47 mmol) and 4-fluorobenzene-1,2-diamine (0.15 g, 1.18 mmol) in anhydrous toluene (20.0 mL) was refluxed overnight under N2. The reaction mixture was diluted with water (250 mL) and extracted with ethyl acetate (2×200 mL). The combined organic extracts was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography (ethyl acetate/hexane, 2/1) to give the title compound (0.13 g, 22%): mp 138-142° C.; 1H NMR (300 MHz, CDCl3) δ 7.47-7.39 (m, 1H), 7.32-7.22 (m, 2H), 7.16-6.93 (m, 3H), 6.18 (s, 1H), 6.07 (s, 1H), 5.84-5.78 (m, 2H), 5.20-5.14 (m, 2H), 4.98 (d, 1H), 4.60 (d, 1H); 13C NMR (75 MHz, CDCl3) 6179.2, 161.3, 158.1, 156.2, 149.2, 149.1, 142.5, 141.2, 131.5, 129.5, 124.4, 124.0, 118.0, 111.6, 111.2, 109.9, 103.1, 101.7, 93.5, 80.5, 58.5, 38.9; MS (ES+) m/z 430.2 (M+1).

reactant | (2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)acetic acid | 1.47 mmol, 0.50 g | O=C1N(C2=CC=CC=C2C12COC=1C2=CC2=C(OCO2)C1)CC(=O)O | C18H13NO6
reactant | 4-fluorobenzene-1,2-diamine | 1.18 mmol, 0.15 g | FC=1C=C(C(=CC1)N)N | C6H7FN2
solvent | toluene | 20.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 250 mL | O | H2O
product | 1′-[(5-fluoro-1H-benzimidazol-2-yl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | 0.13 g, 22% | FC1=CC2=C(NC(=N2)CN2C(C3(C4=CC=CC=C24)COC=2C3=CC3=C(OCO3)C2)=O)C=C1 | C24H16FN3O4
